US07799096B2
Preparation of 3-[(dimethylamino)methyl]-4-hydroxy-5-methoxybenzaldehyde (A1)
18.0 g (0.15 mol) of a 40% aqueous dimethylamine solution were added to 12.0 g (0.15 mol) of a 37% aqueous formaldehyde solution in 90 ml of ethanol. Then 15.2 g (0.10 mol) of 4-hydroxy-3-methoxybenzaldehyde (vanillin) were added. The reaction mixture was refluxed for 30 minutes and stirred for a further 24 hours at room temperature. Then the reaction mixture was left to stand overnight in the refrigerator at 0 to 5° C. The precipitated solid was filtered out, washed with ice-cold acetone and dried. The result was a white powder.

reactant | dimethylamine | CNC | C2H7N
reactant | formaldehyde | C=O | CH2O
reactant | 4-hydroxy-3-methoxybenzaldehyde (vanillin) | 0.10 mol, 15.2 g | COC1=C(C=CC(=C1)C=O)O | C8H8O3
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | 3-[(dimethylamino)methyl]-4-hydroxy-5-methoxybenzaldehyde | CN(C)CC=1C=C(C=O)C=C(C1O)OC | C11H15NO3
